US08604029B2
A solution of methyl 2-methylnicotinate (13.0 g, 86.1 mmol) in conc. HCl (65 mL) was heated to reflux overnight. The mixture was concentration under reduced pressure to give a solid which was washed twice with chloroform and dried to afford 2-methyl-nicotinic acid hydrochloride. The salt was dissolved in a minimum amount of methanol and the pH was adjusted with triethylamine to pH 3-4. The precipitated solid was filtered, washed with acetone and dried under high vacuum to afford 2-methyl-nicotinic acid (10.2 g, 87%) as an off-white-solid.

reactant | methyl 2-methylnicotinate | 86.1 mmol, 13.0 g | CC1=C(C(=O)OC)C=CC=N1 | C8H9NO2
reactant | HCl | 65 mL | Cl | ClH
product | 2-methyl-nicotinic acid hydrochloride | Cl.CC1=C(C(=O)O)C=CC=N1 | InChI=1S/C7H7NO2.ClH/c1-5-6(7(9)10)3-2-4-8-5;/h2-4H,1H3,(H,9,10);1H
